US06248870B1
4′-(4-methoxyphenyl)-2,2′:6′2″-terpyridine-6-carboxylic acid (11a)
A flame dried 3 necked 1 L flask equipped with a mechanical stirrer, pressure equalizing addition funnel, and, attached via silicone rubber tubing, a Gooch tube containing solid 6-bromo-4′-(4-methoxyphenyl)-2,2′:6′2″-terpyridine (42.2 mmole) under nitrogen is charged with 400 mL THF and cooled in a Dry Ice/ether bath to −78° C. A solution of n-butyllithium (20 mL of 2.5 M) is transferred via nitrogen pump to the pressure equalizing addition funnel, and is then added to the THF solution. After stirring 15 minutes at −78° C., the solid 6-bromo-4′-(4-methoxyphenyl)-2,2′:6′2″-terpyridine is added portionwise over an 11 minute period from the Gooch tube. The temperature is not allowed to exceed −75° C. during the addition. After the addition, the bath is lowered, and the reaction mixture is allowed to warm slightly to −70° C. over a 10 minute period. The solution is re-cooled to −78° C., and the reaction mixture is transferred via cannula under nitrogen to a jacketed addition funnel cooled to −78° C. This anionic solution is maintained at −78° C. under nitrogen while it is added with stirring to 400 mL of THF saturated with anhydrous carbon dioxide in a 3 liter 3 necked flask attached to a silicone oil bubbler. Additional anhydrous carbon dioxide is slowly bubbled into the reaction mixture during the addition while the temperature is carefully controlled to remain below −70° C. After stirring for 60 minutes, the cooling bath is removed and the reaction mixture is carefully quenched with 100 ml of a 1 N aqueous HCl solution over a ten minute period. The reaction mixture is allowed to stir and warm to room temperature. The solvent is evaporated under vacuum below 20° C., the crude product is triturated with isopropanol, isolated by filtration, washed with ether and dried under vacuum.

reactant | 6-bromo-4′-(4-methoxyphenyl)-2,2′:6′2″-terpyridine | 42.2 mmole | BrC1=CC=CC(=N1)C1=NC(=CC(=C1)C1=CC=C(C=C1)OC)C1=NC=CC=C1 | C22H16BrN3O
reactant | n-butyllithium | 2.5 M, 20 mL | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 4′-(4-methoxyphenyl)-2,2′:6′2″-terpyridine-6-carboxylic acid | COC1=CC=C(C=C1)C1=CC(=NC(=C1)C1=NC=CC=C1)C1=NC(=CC=C1)C(=O)O | C23H17N3O3
